US08871361B2
2-(2,6-dimethylphenyl)-acetaldehyde (4.4 g, 29.7 mmol) was dissolved in DCM (30 mL) and dioxane (50 mL) and a solution of bromine (1.7 mL, 32.7 mmol) in DCM (30 mL) was added dropwise at room temperature. Completion of reaction was determined by GC/MS. Upon completion, sodium thiosulfate aqueous solution was added and stirred for 10 minutes. The layers were separated, and washed twice with DCM (100 mL) and combined organics with 10% aqueous LiCl solution (100 mL). The organic layers were dried over sodium sulfate, filtered and the solvent was removed under reduced pressure to give 7 g (93%) of 2-bromo-2-(2,6-dimethylphenyl)acetaldehyde as an orange oil. NMR confirmed the product, which was used without further purification.

reactant | 2-(2,6-dimethylphenyl)-acetaldehyde | 29.7 mmol, 4.4 g | CC1=C(C(=CC=C1)C)CC=O | C10H12O
reactant | dioxane | 50 mL | O1CCOCC1 | C4H8O2
reactant | bromine | 32.7 mmol, 1.7 mL | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-2-(2,6-dimethylphenyl)acetaldehyde | 7 g, 93% | BrC(C=O)C1=C(C=CC=C1C)C | C10H11BrO
